US06720346B2
The starting material 1-(2-amino-1,1-dimethylethyl)piperidine was prepared in a route similar to that in Example 39 from 2-hydroxy-2-methyl-propionitrile and piperidine.

reactant | 2-hydroxy-2-methyl-propionitrile | OC(C#N)(C)C | C4H7NO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-(2-amino-1,1-dimethylethyl)piperidine | NCC(C)(C)N1CCCCC1 | C9H20N2
